US07402595B2
6-bromo-2-(4-methanesulfonylbenzyl)-1-oxo-4-phenyl-1,2-dihydroisoquinoline-3-carboxylic acid pyridin-4-ylmethyl ester
The present compound was synthesized by a method similar to that in Example 200 and using 6-bromo-2-(4-methanesulfonylbenzyl)-1-oxo-4-phenyl-1,2-dihydroisoquinoline-3-carboxylic acid and 4-pyridinemethanol.

reactant | 6-bromo-2-(4-methanesulfonylbenzyl)-1-oxo-4-phenyl-1,2-dihydroisoquinoline-3-carboxylic acid | BrC=1C=C2C(=C(N(C(C2=CC1)=O)CC1=CC=C(C=C1)S(=O)(=O)C)C(=O)O)C1=CC=CC=C1 | C24H18BrNO5S
reactant | 4-pyridinemethanol | N1=CC=C(C=C1)CO | C6H7NO
product | 6-bromo-2-(4-methanesulfonylbenzyl)-1-oxo-4-phenyl-1,2-dihydroisoquinoline-3-carboxylic acid pyridin-4-ylmethyl ester | N1=CC=C(C=C1)COC(=O)C=1N(C(C2=CC=C(C=C2C1C1=CC=CC=C1)Br)=O)CC1=CC=C(C=C1)S(=O)(=O)C | C30H23BrN2O5S
